US08957074B2
To a solution of 2-(benzhydrylidene-amino)-7-(1-ethyl-butyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (3.5 g, 8.0 mmol) in 26.7 mL THF was added aqueous 2M HCl (1.32 mL) and the mixture was stirred for 20 min. To this was added 60 mL heptane:EtOAc (4:1 v/v) and 60 mL aqueous 0.5N HCl and the layers were separated. The acidic aqueous layer was basified to pH 10 with aqueous 25% NaOH solution and extracted again with EtOAc. The organic extract was then washed with brine, dried (Na2SO4), concentrated and purified via SiO2 column chromatography (0-20% MeOH in EtOAc) to give 2-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a white solid (1.68 g, 6.15 mmol, 77% yield). MS m/z 274.4 (M+H)+.

reactant | 2-(benzhydrylidene-amino)-7-(1-ethyl-butyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 8.0 mmol, 3.5 g | CN(C(=O)C1=CC2=C(N=C(N=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)N1C(CCC)CC)C | C28H31N5O
reactant | HCl | 2M, 1.32 mL | Cl | ClH
reactant | heptane EtOAc | 60 mL | CCCCCCC.CCOC(=O)C
reactant | HCl | 0.5N | Cl | ClH
solvent | THF | 26.7 mL | C1CCOC1 | C4H8O
product | 2-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 6.15 mmol, 1.68 g, 77% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)N)N1C1CCCC1)C | C14H19N5O
